US04352752
According to the same procedure as in Example 1, 1-(1-methoxycarbonyl-2-methylpropyl)-3-benzyloxy-4-phenylazetidin-2-one (560 mg.) was subjected to hydrogenolysis at room temperature in ethanol (30 ml.) under a hydrogen pressure of one atmosphere in the presence of a 10% Pd-C (170 mg.). The reaction was completed in 38 hours. The same after-treatment as in Example 1 was followed to give methyl ester of α-hydroxy-β-phenylpropionylvaline (400 mg., yield: 93.7%), which was an oil.

reactant | 1-(1-methoxycarbonyl-2-methylpropyl)-3-benzyloxy-4-phenylazetidin-2-one | 560 mg | COC(=O)C(C(C)C)N1C(C(C1C1=CC=CC=C1)OCC1=CC=CC=C1)=O | C22H25NO4
reactant | ethanol | 30 ml | C(C)O | C2H6O
catalyst | Pd-C | 170 mg | [Pd] | Pd
product | α-hydroxy-β-phenylpropionylvaline | 400 mg, yield: 93.7% | O[C@](NC(CCC1=CC=CC=C1)=O)(C(C)C)C(=O)O | C14H19NO4
